US05620989
A solution of 2-phenylprolinol (0.51 g) and di-t-butyldicarbonate (0.66 g) in dichloromethane (4 ml) was stirred at 23° C. for 16 h. Evaporation of the solvent in vacuo provided 1-t-butyloxycarbonyl-2-phenylprolinol as an oil. 1H NMR (360 MHz, CDCl3) d 7.36-7.17 (5H, m, ArH), 5.27 (1H, d, J=7.2 Hz, CHHOH), 4.27 (1H, t, J=7.6 Hz), 3.94 (1H, d, J=7.2 Hz, CHHOH), 3.66 (1H, 5, J =7.4 Hz), 3.51 (1H, m), 1.94 (2H, m), 1.8-1.66 (2H, m), 1.50 (9H, s). 13C NMR (90.6 MHz, CDCl3) d 156.3, 141.9, 128.3, 126.6, 126.0, 80.4, 71.8, 66.9, 49.1, 40.1, 28.5, 20.9.

reactant | 2-phenylprolinol | 0.51 g | C1(=CC=CC=C1)[C@@]1(NCCC1)CO | C11H15NO
reactant | di-t-butyldicarbonate | 0.66 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-t-butyloxycarbonyl-2-phenylprolinol | C(C)(C)(C)OC(=O)N1[C@](CO)(CCC1)C1=CC=CC=C1 | C16H23NO3
